US04377580
A mixture of diethyl [[6-(2-ethylbutyramido)-4-quinazolinylamino]methylene]propanedioate (0.6 g) in diphenyl ether (3 ml) was stirred at 250° C. for 15 minutes and cooled to ambient temperature. The resulting crystals were filtered, washed with ethyl acetate and dried. There was obtained ethyl 4-oxo-10-(2-ethylbutyramido)-4H-pyrimido[1,2-C]quinazoline-3-carboxylate (0.5 g).

reactant | diethyl [[6-(2-ethylbutyramido)-4-quinazolinylamino]methylene]propanedioate | 0.6 g | C(C)C(C(=O)NC=1C=C2C(=NC=NC2=CC1)NC=C(C(=O)OCC)C(=O)OCC)CC | C22H28N4O5
solvent | diphenyl ether | 3 ml | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
product | ethyl 4-oxo-10-(2-ethylbutyramido)-4H-pyrimido[1,2-C]quinazoline-3-carboxylate | 0.5 g | O=C1C(=CN=C2N1C=NC=1C=CC(=CC21)NC(C(CC)CC)=O)C(=O)OCC | C20H22N4O4
